US04762935
cis-7-Bromo-5-heptenoic acid, methyl ester
To 23.7 g of cis-7-hydroxy-5-heptenoic acid, methyl ester and 150 ml of hexanes under nitrogen at 0° C. was added dropwise, 7.05 ml of phosphorous tribromide. After 2 hours the reaction was quenched with ice, diluted with hexanes, washed once with water and once with saturated aqueous bicarbonate, dried and stripped at reduced pressure. The crude product was dissolved in ether and filtered through a plug of silica gel. Removal of the ether at reduced pressure gave 31.4 g of the desired compound. NMR: 5.95-5.35 ppm (2H, m, olefins), 3.95 ppm (2H, d, 7 Hz, BrCH2), 3.65 ppm (3H, s, OMe), 2.45-2.05 ppm (4H, m, CH2 --CH2), 1.8 ppm (2H, q, 7 Hz, CH2).

reactant | cis-7-hydroxy-5-heptenoic acid, methyl ester | 23.7 g | OC\C=C/CCCC(=O)OC | C8H14O3
reactant | phosphorous tribromide | 7.05 ml | P(Br)(Br)Br | Br3P
product | cis-7-Bromo-5-heptenoic acid, methyl ester | 31.4 g | BrC\C=C/CCCC(=O)OC | C8H13BrO2
